US04748165
A solution of 5-(4-amino-1,2,3-triazol-2-yl)valeronitrile (1.65 g.) in acetonitrile (6 ml.) was treated with ethylisothiocyanate (0.87 g.) and the solution stirred for 2.5 days then heated under reflux for 4.5 hours. Evaporation of the solvent gave 5-[4-(3-ethylthioureido)-1,2,3-triazol-2-yl]valeronitrile.

reactant | 5-(4-amino-1,2,3-triazol-2-yl)valeronitrile | 1.65 g | NC1=NN(N=C1)CCCCC#N | C7H11N5
reactant | ethylisothiocyanate | 0.87 g | C(C)N=C=S | C3H5NS
solvent | acetonitrile | 6 ml | C(C)#N | C2H3N
product | 5-[4-(3-ethylthioureido)-1,2,3-triazol-2-yl]valeronitrile | C(C)NC(NC1=NN(N=C1)CCCCC#N)=S | C10H16N6S
